* vtc_vdd_2p5: CMOS inverter DC transfer curve
.include ../models/chapter5_cmos.inc
Vdd vdd 0 2.5
Vin in 0 0
Xinv in out vdd inv wnn=1e-06 wpp=2.75e-06 lch=2.5e-07

.control
set noaskquit
set wr_singlescale
set wr_vecnames
dc Vin 0 2.5 0.0041666667
wrdata ../raw/vtc_vdd_2p5.dat v(in) v(out) i(vdd)
quit
.endc
.end
